US07812022B2
N-[3-(3-{2-[(3-{[2-(Dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2,6-difluoro-3-methylbenzamide
To a suspension of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluoro-3-methylbenzamide (100 mg, 0.21 mmol) (prepared in a manner similar to that described in Example 186) and {2-[(3-aminophenyl)oxy]ethyl}dimethylamine (47 mg, 0.26 mmol) in 2-propanol (3 mL) was added 2 drops of concentrated HCl. The reaction was stirred at 80° C. overnight. After 16 h, the mixture was diluted with DCM, washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered, and adsorbed onto silica. The crude product was purified by column chromatography to generate the title compound in 86% yield (112 mg, 0.18 mmol). 1H NMR (400 MHz, d6-DMSO) δ 10.90 (s, 1H), 9.55 (s, 1H), 8.86 (d, J=6.7 Hz, 1H), 8.51 (d, J=8.6 Hz, 1H), 8.28 (d, J=5.2 Hz, 1H), 8.01 (s, 1H), 7.83 (d, J=7.9 Hz, 1H), 7.45-7.52 (m, 4H), 7.36 (d, J=7.3 Hz, 1H), 7.27 (d, J=8.1 Hz, 1H), 7.12-7.16 (m, 3H), 6.53 (d, J=5.1 Hz, 1H), 3.97 (t, J=5.6 Hz, 2H), 2.58 (t, J=5.8 Hz, 2H), 2.26 (s, 3H), 2.17 (s, 6H). MS (ESI) m/z=620 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluoro-3-methylbenzamide | 0.21 mmol, 100 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C(=CC=C2F)C)F)=O | C25H16ClF2N5O
reactant | {2-[(3-aminophenyl)oxy]ethyl}dimethylamine | 0.26 mmol, 47 mg | NC=1C=C(C=CC1)OCCN(C)C | C10H16N2O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[3-(3-{2-[(3-{[2-(Dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2,6-difluoro-3-methylbenzamide | 86% yield | CN(CCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C(=CC=C2F)C)F)=O)C | C35H31F2N7O2
